* SPICE3 file created from DACLayoutOff.ext - technology: sky130A

*.subckt DACLayoutOff GND VDD MUX0 MUX1 MUX2 MUX3 MUX4 MUX5 MUX6 MUX7 MUX8 MUX9 MUX10
+ MUX11 MUX12 MUX13 MUX14 MUX15 Vout
X0 a_850_n40# MUX5 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X1 a_9700_3952# a_9870_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X2 a_6300_3360# a_6130_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X3 a_2040_2640# a_2210_n40# sky130_fd_pr__res_generic_po w=0.35 l=11.25
X4 a_1700_2780# a_1520_n170# sky130_fd_pr__res_generic_po w=0.35 l=11.95
X5 VDD a_13610_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X6 a_10040_3952# a_10210_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X7 a_9700_3952# a_9530_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X8 a_7150_3810# a_6980_3360# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X9 a_6640_3360# a_6470_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X10 a_3920_2070# a_4090_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X11 a_160_n170# a_320_n350# sky130_fd_pr__res_generic_po w=0.35 l=2.97
X12 a_14296_2070# a_14126_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X13 a_13440_3952# a_13610_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X14 a_11060_3952# a_10890_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X15 a_10380_3952# a_10550_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X16 a_670_n350# MUX6 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X17 a_7490_3810# a_7320_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X18 a_6980_3360# a_6810_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X19 a_510_n170# a_670_n350# sky130_fd_pr__res_generic_po w=0.35 l=5.94
X20 a_14986_2070# Vout sky130_fd_pr__res_generic_po w=0.35 l=8.4
X21 a_14646_2070# a_14466_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X22 a_13956_2070# a_14126_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X23 a_510_n170# MUX3 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X24 a_10720_3952# a_10890_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X25 a_n40_n350# MUX2 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X26 a_7150_3810# a_7320_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X27 a_6640_3360# a_6810_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X28 a_4260_2070# a_4090_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X29 a_14986_2070# a_14816_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X30 a_3230_2070# a_3060_n170# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X31 a_320_n350# a_510_n170# sky130_fd_pr__res_generic_po w=0.35 l=4.27
X32 a_14296_2070# a_14466_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X33 a_13956_2070# a_n200_n300# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X34 a_3060_n170# MUX11 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X35 a_11060_3952# a_11230_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X36 a_10720_3952# a_10550_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X37 a_8170_3810# a_8000_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X38 a_7490_3810# a_7660_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X39 a_3570_2070# a_3400_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X40 a_670_n350# a_850_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.7
X41 a_14646_2070# a_14816_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X42 a_12080_3952# a_11910_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X43 a_11400_3952# a_11570_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X44 a_320_n350# MUX4 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X45 a_n200_n170# MUX0 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X46 a_2380_2640# MUX10 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X47 a_7830_3810# a_8000_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X48 a_4260_2070# a_4430_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X49 a_3920_2070# a_3740_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X50 a_3230_2070# a_3400_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X51 a_1520_n170# MUX8 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X52 a_11400_3952# a_11230_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X53 a_8170_3810# a_8340_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X54 a_7830_3810# a_7660_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X55 a_5280_3534# a_5110_n40# sky130_fd_pr__res_generic_po w=0.35 l=15.72
X56 a_4600_3534# a_4770_n40# sky130_fd_pr__res_generic_po w=0.35 l=15.72
X57 a_1020_1552# a_1180_n350# sky130_fd_pr__res_generic_po w=0.35 l=5.81
X58 a_1860_n170# MUX9 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X59 a_3570_2070# a_3740_n40# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X60 a_8850_3810# MUX15 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X61 a_12080_3952# a_12250_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X62 a_11740_3952# a_11570_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X63 a_9020_3952# a_9190_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X64 a_8510_3810# a_8680_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X65 a_4940_3534# a_5110_n40# sky130_fd_pr__res_generic_po w=0.35 l=15.72
X66 a_4600_3534# a_4430_n40# sky130_fd_pr__res_generic_po w=0.35 l=15.72
X67 a_1020_1552# a_850_n40# sky130_fd_pr__res_generic_po w=0.35 l=5.81
X68 a_1180_n350# MUX7 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X69 a_6980_3360# MUX14 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X70 a_12420_3952# a_12590_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X71 a_n200_n170# a_n40_n350# sky130_fd_pr__res_generic_po w=0.35 l=1.75
X72 a_9020_3952# a_8850_3810# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X73 a_8510_3810# a_8340_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X74 a_5280_3534# a_5440_n170# sky130_fd_pr__res_generic_po w=0.35 l=15.72
X75 a_4940_3534# a_4770_n40# sky130_fd_pr__res_generic_po w=0.35 l=15.72
X76 a_160_n170# MUX1 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X77 a_1360_2070# a_1180_n350# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X78 a_12420_3952# a_12250_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X79 a_11740_3952# a_11910_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X80 a_5440_n170# MUX13 a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X81 a_9360_3952# a_9190_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X82 a_8850_3810# a_8680_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.1
X83 a_5620_3360# a_5790_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X84 a_2890_2750# a_3060_n170# sky130_fd_pr__res_generic_po w=0.35 l=11.79
X85 a_2550_2750# a_2380_2640# sky130_fd_pr__res_generic_po w=0.35 l=11.79
X86 a_13100_3952# a_13270_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X87 a_12760_3952# a_12590_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X88 a_4430_n40# a_4330_n220# a_n200_n300# GND sky130_fd_pr__nfet_01v8 ad=0.25 pd=2 as=0.25 ps=2 w=0.5 l=0.15
X89 a_5960_3360# a_6130_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X90 a_5620_3360# a_5440_n170# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X91 a_1360_2070# a_1520_n170# sky130_fd_pr__res_generic_po w=0.35 l=8.4
X92 a_2040_2640# a_1860_n170# sky130_fd_pr__res_generic_po w=0.35 l=11.25
X93 GND a_n200_n170# sky130_fd_pr__res_generic_po w=0.35 l=3.35
X94 a_2890_2750# a_2720_n38# sky130_fd_pr__res_generic_po w=0.35 l=11.79
X95 a_13100_3952# a_12930_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X96 a_10040_3952# a_9870_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X97 a_9360_3952# a_9530_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X98 a_6300_3360# a_6470_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X99 a_5960_3360# a_5790_n40# sky130_fd_pr__res_generic_po w=0.35 l=14.85
X100 a_2380_2640# a_2210_n40# sky130_fd_pr__res_generic_po w=0.35 l=11.25
X101 a_n40_n350# a_160_n170# sky130_fd_pr__res_generic_po w=0.35 l=2.1
X102 a_1700_2780# a_1860_n170# sky130_fd_pr__res_generic_po w=0.35 l=11.95
X103 a_2550_2750# a_2720_n38# sky130_fd_pr__res_generic_po w=0.35 l=11.79
X104 a_13440_3952# a_13270_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X105 a_12760_3952# a_12930_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
X106 a_10380_3952# a_10210_n40# sky130_fd_pr__res_generic_po w=0.35 l=17.81
*.ends

